US03956363
5-Cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetic acid (1.6 g.) in methanol (10 ml.) is added to a solution of sodium methoxide (0.27 g.) in methanol (5 ml.). The reaction mixture is stirred for 20 minutes and evaporated to dryness to yield sodium 5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetate.

reactant | 5-Cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetic acid | 1.6 g | C(#N)C=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C21H17NO3S
reactant | sodium methoxide | 0.27 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | sodium 5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetate | C(#N)C=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)[O-].[Na+] | InChI=1S/C21H17NO3S.Na/c1-13-18(9-14-3-6-16(7-4-14)26(2)25)17-8-5-15(12-22)10-20(17)19(13)11-21(23)24;/h3-10H,11H2,1-2H3,(H,23,24);/q;+1/p-1
